US05532367
Under a nitrogen atmosphere, 10.0 grams (0.061 mole) of 7-amino-2,3-dihydro-2,2-dimethylbenzofuran was stirred and cooled in an ice-water bath. To this was added 17.4 mL (0.153 mole) of aqueous 48% hydrobromic acid, followed by the dropwise addition of a solution of 4.2 grams (0.061 mole) of sodium nitrite in 50 mL of water. The reaction mixture temperature was maintained at below 10° C. throughout the addition. In a separate reaction vessel, a stirred mixture of 4.8 grams (0.034 mole) of copper(I) bromide and 4.2 mL (0.037 mole) of aqueous 48% hydrobromic acid was heated to 60°-70° C., and the diazonium salt prepared above was added slowly dropwise. Upon completion of addition, the reaction mixture was warmed to 80° C. where it was stirred for one hour. After this time the reaction mixture was allowed to cool to ambient temperature as it stirred for about 18 hours. The reaction mixture was poured into 300 mL of water and the mixture was extracted with two 200 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was subjected to column chromatography on silica gel. Elution was accomplished using petroleum ether. The product-containing fractions were combined and concentrated under reduced pressure, yielding 7.0 grams of 7-bromo-2,3-dihydro-2,2-dimethylbenzofuran. The NMR spectrum was consistent with the proposed structure.

reactant | 7-amino-2,3-dihydro-2,2-dimethylbenzofuran | 0.061 mole, 10.0 grams | NC1=CC=CC=2CC(OC21)(C)C | C10H13NO
reactant | hydrobromic acid | Br | BrH
reactant | sodium nitrite | 0.061 mole, 4.2 grams | N(=O)[O-].[Na+]
solvent | water | 50 mL | O | H2O
catalyst | copper(I) bromide | 0.034 mole, 4.8 grams | [Cu]Br
solvent | water | 300 mL | O | H2O
product | 7-bromo-2,3-dihydro-2,2-dimethylbenzofuran | 7.0 grams | BrC1=CC=CC=2CC(OC21)(C)C | C10H11BrO
